US08710043B2
Step 8. ((S)-5-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-4-hydroxypicolinamide
To a stirred solution of (S)—N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-4-hydroxy-5-nitropicolinamide (0.35 g, 0.0007 mol) in MeOH (10 mL) was added Raney Ni (0.3 g, Monarch), followed by hydrazine hydrate (2 mL, Aldrich) added in a drop-wise fashion at rt. The reaction mixture was stirred for 3 h. After completion of the reaction (monitored by TLC, 50% EtOAc in hexane), the reaction mixture was filtered through Celite® brand filter agent and concentrated providing a residue. The residue was triturated with Et2O, filtered dried under vacuum to give the title compound as a brown solid. 1H NMR (DMSO-d6) δ: 9.41 (d, J=7.5 Hz, 1H), 8.55 (d, J=4.2 Hz, 1H), 7.83-7.78 (m, 2H), 7.54-7.44 (m, 3H), 7.27 (d, J=9.9 Hz, 2H), 6.46 (d, J=6.9 Hz, 1H), 5.29 (s, 2H).

reactant | (S)—N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-4-hydroxy-5-nitropicolinamide | 0.0007 mol, 0.35 g | FC=1C=C(C=CC1OC(F)(F)F)[C@H](NC(C1=NC=C(C(=C1)O)[N+](=O)[O-])=O)C1=NC=CC=C1F | C19H11F5N4O5
reactant | hydrazine hydrate | 2 mL | O.NN
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
catalyst | Ni | 0.3 g | [Ni] | Ni
product | (S)-5-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-4-hydroxypicolinamide | NC=1C(=CC(=NC1)C(=O)N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F)O | C19H13F5N4O3
